US04983601
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepine
1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-thione (5 g), hydrazine monohydrate (5 ml) and dimethylformamide (150 ml) were combined and refluxed overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by high performance liquid chromatography (2% methanol/dichloromethane) to yield 3.5 g (68.2%) of product. Recrystallization from tetrahydrofuran gave the analytical sample, mp 177°-178° C.

reactant | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6-thione | 5 g | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)=S | C15H12N2S
reactant | hydrazine monohydrate | 5 ml | O.NN
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1,2-Dihydrobenzo[b]pyrrolo[3,2,1-jk][1,2,4]triazolo[4,3-d][1,4]benzodiazepine | 3.5 g, 68.2% | C1CC=C2C3=C1C=1N(C4=C(N3C=C2)C=CC=C4)C=NN1 | C16H12N4
